US06030547
Preparation of 5-Hexyloxy-2-[4-(3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as described in Example 8 of International Patent Publication No. WO 96/33251 by combining 3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propyl chloride (3.0 g, 5.1 mmol) with 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine (1.4 g, 5.1 mmol). The resulting crude product was purified by Kugelrohr distillation (b.p. 170-80° C. at 0.01 torr).

reactant | 3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propyl chloride | 5.1 mmol, 3.0 g | FC(C(C(OC(C(OC(COC[C@H](COCCCCl)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C14H13ClF16O4
reactant | 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine | 5.1 mmol, 1.4 g | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O2
product | 5-Hexyloxy-2-[4-(3-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-(S)-2-fluoropropoxy)propoxy)phenyl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOC[C@@H](COCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C30H32F16N2O6
